US04916145
A solution of 9.3 mL of 4-bromoveratrole in 200 mL of THF was cooled to -78° C. and 73 mL of 1.51M n-butyl lithium was added dropwise. The reaction mixture was stirred for 3 hours at -78° C. and a solution of freshly fused zinc chloride in 100 mL of THF was added. After 1 hour, this solution was added to a second solution formed by treatment of a suspension of 1.7 g of bis(triphenylphosphine)palladium dichloride in 300 mL of THF with 4.9 mL of a 1M solution of diisobutylaluminum hydride in hexane followed by addition of 16.2 g of methyl 4-bromo-2-methoxybenzoate using a double tipped syringe needle. The reaction mixture was allowed to stir at room temperature over night and was diluted with ethyl acetate. The organic solution was washed with 1M HCl, water, and brine, dried, and evaporated to a dark oil which was purified by preparative hplc eluting with 3:1 hexane:ethyl acetate and crystallized from ethyl acetate-hexane to give 8.4 g 3,3',4'-trimethoxy[1,1'-biphenyl]-4-carboxylic acid methyl ester. mp 96°-97.5° C.

reactant | methyl 4-bromo-2-methoxybenzoate | 16.2 g | BrC1=CC(=C(C(=O)OC)C=C1)OC | C9H9BrO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,3',4'-trimethoxy[1,1'-biphenyl]-4-carboxylic acid methyl ester | 8.4 g | COC(=O)C1=C(C=C(C=C1)C1=CC(=C(C=C1)OC)OC)OC | C17H18O5
